US07326786B2
Then the similar procedure as described in example 1b was used, starting from 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one, (R)-4-fluoro-phenylglycinol and DIEA to give 2-[(R)-1-(4-fluoro-phenyl)-2-hydroxy-ethylamino]-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one. LC-MS m/e 394 (MH+).

reactant | 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | CSC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C14H10N2OS2
reactant | (R)-4-fluoro-phenylglycinol | C1=CC(=CC=C1[C@H](CO)N)F | C8H10FNO
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | 2-[(R)-1-(4-fluoro-phenyl)-2-hydroxy-ethylamino]-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | FC1=CC=C(C=C1)[C@H](CO)NC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C21H16FN3O2S
